US07790709B2
Preparation of (E)-N-Methyl-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)-N-quinolin-5-ylmethyl-acrylamide hydrochloride
According to the procedure of Example 1, except substituting methyl-quinolin-5-ylmethyl-amine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, and substituting (E)-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, the title compound (0.387 g, quantitative) was prepared as a tan solid and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ 10.69-10.63 (m, 1H), 9.26-9.13 (m, 2H), 8.39-8.25 (m, 2H), 8.11-7.93 (m, 3H), 7.77-7.45 (m, 2H), 7.30-7.17 (m, 1H), 5.50-5.22 (m, 2H), 3.15-3.01 (m, 3H), 2.94-2.78 (m, 2H), 2.56-2.44 (m, 2H); MS (ESI) m/e 373 (M+H)+.

reactant | methyl-quinolin-5-ylmethyl-amine | CNCC1=C2C=CC=NC2=CC=C1 | C11H12N2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
reactant | (E)-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylic acid hydrochloride | Cl.O=C1CCC=2C=C(C=NC2N1)/C=C/C(=O)O
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
product | (E)-N-Methyl-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)-N-quinolin-5-ylmethyl-acrylamide hydrochloride | 0.387 g | Cl.CN(C(\C=C\C=1C=NC=2NC(CCC2C1)=O)=O)CC1=C2C=CC=NC2=CC=C1 | InChI=1S/C22H20N4O2.ClH/c1-26(14-17-4-2-6-19-18(17)5-3-11-23-19)21(28)10-7-15-12-16-8-9-20(27)25-22(16)24-13-15;/h2-7,10-13H,8-9,14H2,1H3,(H,24,25,27);1H/b10-7+;
